US09428509B2
4-Bromo-2-fluoro-6-methoxyaniline hydrobromide
A solution of 2-fluoro-6-methoxyaniline (1 equiv) in acetic acid (0.7 M) was cooled to 5° C. A mixture of bromine (0.9 equiv) in acetic acid (0.7 M) was slowly added. The reaction mixture was stirred for 2 h at 5° C. The resulting solid was filtered, washed with ether, and dried to give the title compound (90% yield). 1H NMR (500 MHz, DMSO-d6) δ ppm 3.84 (s, 3H) 6.79 (br. s., 2H) 6.97 (s, 1H) 7.06 (d, J=10.09 Hz, 1H). MS (ESI) m/z 219.9 [M+H]+.

reactant | 2-fluoro-6-methoxyaniline | 1 equiv | FC1=C(N)C(=CC=C1)OC | C7H8FNO
reactant | bromine | 0.9 equiv | BrBr | Br2
solvent | acetic acid | 0.7 M | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.7 M | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-fluoro-6-methoxyaniline hydrobromide | 90% yield | Br.BrC1=CC(=C(N)C(=C1)OC)F | InChI=1S/C7H7BrFNO.BrH/c1-11-6-3-4(8)2-5(9)7(6)10;/h2-3H,10H2,1H3;1H
